US08455522B2
Step 2: Synthesis of 3-Fluoro-5-(3-methyl-2-oxo-2,3-dihydro-benzooxazol-5-yl)-pyridine-4-carbaldehyde
A mixture of 3-Methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3H-benzooxazol-2-one (138 mg, 0.5 mmol), 3-Bromo-5-fluoro-pyridine-4-carbaldehyde (102 mg, 0.5 mmol), Na2CO3 (2 M in water, 0.75 mL, 1.5 mmol) and PdCl2(PPh3)2 (17 mg, 0.03 mmol) in DMF (3 mL) was heated at 100° C. for 4 hrs. After concentration, the residue was diluted with DCM and saturated NH4Cl solution. After filtration and concentration, the residue was purified by flash column (MeOH—CH2Cl2, v/v, 0-1.5%) and afforded the title compound (47 mg, 35%). 1H NMR (400.3 MHz, CDCl3): δ 3.45 (s, 3H), 6.96 (d, J=1.7 Hz, 1H), 7.08 (dd, J=8, 1.7 Hz, 1H), 7.32 (d, J=8 Hz, 1H) 8.59 (s, 1H), 8.68 (d, J=1.3 Hz, 1H), 10.07 (s, 1H).

reactant | 3-Methyl-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3H-benzooxazol-2-one | 0.5 mmol, 138 mg | CN1C(OC2=C1C=C(C=C2)B2OC(C(O2)(C)C)(C)C)=O | C14H18BNO4
reactant | 3-Bromo-5-fluoro-pyridine-4-carbaldehyde | 0.5 mmol, 102 mg | BrC=1C=NC=C(C1C=O)F | C6H3BrFNO
reactant | Na2CO3 | 1.5 mmol, 2 M, 0.75 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.03 mmol, 17 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-Fluoro-5-(3-methyl-2-oxo-2,3-dihydro-benzooxazol-5-yl)-pyridine-4-carbaldehyde | 47 mg, 35% | FC=1C=NC=C(C1C=O)C=1C=CC2=C(N(C(O2)=O)C)C1 | C14H9FN2O3
